US08383631B2
1-N-t-butoxycarbonyl-3-amino-4,5,6,7-tetrahydro-6-N-(p-tolyl)pyrazolo[3,4-c]pyridin-7-one
3-Amino-5,6-dihydro-6-p-tolyl-1H-pyrazolo[3,4-c]pyridin-7(4H)-one (1 g, 4.127 mmol) synthesized in Reference Example 7 and potassium percarbonate (1.1 g, 8.254 mmol) were dissolved in anhydrous tetrahydrofuran (10.3 mL). After adding di-t-butyl dicarbonate (990.6 mg, 4.539 mmol), reaction was carried out at room temperature for 2 days. After extracting the reaction mixture with methylene chloride, the organic layer was dried with MgSO4, concentrated under reduced pressure, and then purified. A target compound (987.8 mg, 2.885 mmol, 70.1%) was yielded.

reactant | 3-Amino-5,6-dihydro-6-p-tolyl-1H-pyrazolo[3,4-c]pyridin-7(4H)-one | 4.127 mmol, 1 g | NC1=NNC=2C(N(CCC21)C2=CC=C(C=C2)C)=O | C13H14N4O
reactant | potassium percarbonate | 8.254 mmol, 1.1 g | C(=O)([O-])OOC(=O)[O-].[K+].[K+]
reactant | di-t-butyl dicarbonate | 4.539 mmol, 990.6 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 10.3 mL | O1CCCC1 | C4H8O
product | 1-N-t-butoxycarbonyl-3-amino-4,5,6,7-tetrahydro-6-N-(p-tolyl)pyrazolo[3,4-c]pyridin-7-one | 2.885 mmol, 987.8 mg, 70.1% | C(C)(C)(C)OC(=O)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)C)=O)N | C18H22N4O3
